US05059597
a) 1-Methyl-pyridinium-2,3-dicarboxylic acid N-benzylimide iodide
190.5 g (0.8 mol) of pyridine-2,3-dicarboxylic acid N-benzylimide are dissolved in 800 ml of nitromethane, while heating, and 136 g (0.96 mol) of methyl iodide are added dropwise. The mixture is then boiled for 8 hours while cooling under reflux (cooling water 0° C.). After cooling, the solid is filtered off with suction and washed with methylene chloride. 123 g of dark red crystals having a melting point of 162°-165° C. (decomposition) are obtained.

reactant | pyridine-2,3-dicarboxylic acid N-benzylimide | 0.8 mol, 190.5 g | C(C1=CC=CC=C1)N=C(O)C1=NC=CC=C1C(=O)O | C14H12N2O3
reactant | methyl iodide | 0.96 mol, 136 g | CI | CH3I
reactant | water | O | H2O
solvent | nitromethane | 800 ml | [N+](=O)([O-])C | CH3NO2
product | 1-Methyl-pyridinium-2,3-dicarboxylic acid N-benzylimide iodide | [I-].C(C1=CC=CC=C1)N=C(O)C1=[N+](C=CC=C1C(=O)O)C | InChI=1S/C15H14N2O3.HI/c1-17-9-5-8-12(15(19)20)13(17)14(18)16-10-11-6-3-2-4-7-11;/h2-9H,10H2,1H3,(H-,16,18,19,20);1H
